US07935698B2
Preparation of alcohol derivative used to prepare Compounds 1-4: To a solution of 2-[2-(pyridin-2-yl)-ethoxy]-4-(methoxycarbonyl)-6-(morpholin-4-yl)-pyrimidine (0.81 g, 2.35 mmol) in ethanol sodium borohydride (4 eq, 0.36 g) was added in portions and the reaction mixture was refluxed for 3 hours. Solvent was removed, the reaction mixture distributed between ethyl acetate and water, organic solution washed with brine, dried and concentrated to give crude alcohol. The above alcohol (0.64 g, 2 mmol) was heated in toluene at 85° C. with manganese dioxide, (10 eq, 1.75 g) for 4 hours to give 2-[2-(pyridin-2-yl)-ethoxy]-4-formyl-6-(morpholin-4-yl)-pyrimidine (0.3 g, 48%) which was isolated by column chromatography.

reactant | 2-[2-(pyridin-2-yl)-ethoxy]-4-(methoxycarbonyl)-6-(morpholin-4-yl)-pyrimidine | 2.35 mmol, 0.81 g | N1=C(C=CC=C1)CCOC1=NC(=CC(=N1)C(=O)OC)N1CCOCC1 | C17H20N4O4
reactant | ethanol sodium borohydride | 0.36 g, 4 eq | [BH4-].[Na+].C(C)O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 1.75 g, 10 eq | [O-2].[O-2].[Mn+4]
product | 2-[2-(pyridin-2-yl)-ethoxy]-4-formyl-6-(morpholin-4-yl)-pyrimidine | 0.3 g, 48% | N1=C(C=CC=C1)CCOC1=NC(=CC(=N1)C=O)N1CCOCC1 | C16H18N4O3
